US08252859B2
2,2-Dimethyl-3-(N-benzylisopropylamino)propanal
Under the same conditions as for the preparation of 2,2-dimethyl-3-(N-morpholino)propanal, 28.0 g (0.34 mol) of 36% aqueous formaldehyde were reacted with 25.4 g (0.35 mol) of isobutyraldehyde and 50.0 g (0.34 mol) of N-benzylisopropylamine, and worked up. The product distilled at a top temperature of 100° C. and a pressure of 4·10−2 mbar. Yield: 48.6 g (62% of theory) as a pale yellow, clear and almost odorless liquid which had an amine content of 4.28 mmol N/g.

reactant | formaldehyde | 0.34 mol, 28.0 g | C=O | CH2O
reactant | isobutyraldehyde | 0.35 mol, 25.4 g | C(C(C)C)=O | C4H8O
reactant | N-benzylisopropylamine | 0.34 mol, 50.0 g | C(C1=CC=CC=C1)NC(C)C | C10H15N
product | 2,2-Dimethyl-3-(N-benzylisopropylamino)propanal | CC(C=O)(CN(CC1=CC=CC=C1)C(C)C)C | C15H23NO
